US08614327B2
To a solution of (2-tert-butyl-4-ethyl-5-nitro-phenyl)methyl carbonate (3.9 g, 13.86 mmol) in methanol (100 mL) was added KOH (1.8 g, 32.08 mmol) at room temperature. The mixture was stirred overnight. Water was added and the reaction mixture was extracted with EtOAc (50 mL×3). The combined organic layers were dried over anhydrous Na2SO4, filtered and evaporated under vacuum to give 2-tert-butyl-4-ethyl-5-nitrophenol (2.8 g, 91%), which was used in the next step without further purification.

reactant | (2-tert-butyl-4-ethyl-5-nitro-phenyl)methyl carbonate | 13.86 mmol, 3.9 g | C(OCC1=C(C=C(C(=C1)[N+](=O)[O-])CC)C(C)(C)C)([O-])=O
reactant | KOH | 32.08 mmol, 1.8 g | [OH-].[K+]
reactant | Water | O | H2O
solvent | methanol | 100 mL | CO | CH4O
product | 2-tert-butyl-4-ethyl-5-nitrophenol | 2.8 g, 91% | C(C)(C)(C)C1=C(C=C(C(=C1)CC)[N+](=O)[O-])O | C12H17NO3
